US07893099B2
To a solution of (1R,2R)-2-(1-cyano-cyclopropylcarbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester (0.38 mmol) in THF (2.0 ml) was added at −15° C. sodium borohydride (0.38 mmol) and stirring was continued for 4 h. The mixture was partitioned between 1N aqueous HCl and ethyl acetate, the organic layer was dried, evaporated and the residue chromatographed on silica using ethyl acetate to give (1R,2R)-2-(1-cyano-cyclopropylcarbamoyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester as a 2:1 mixture of epimers as a colorless solid. MS: 267.0 (M+H)+.

reactant | (1R,2R)-2-(1-cyano-cyclopropylcarbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester | 0.38 mmol | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(NC1(CC1)C#N)=O | C13H16N2O4
reactant | sodium borohydride | 0.38 mmol | [BH4-].[Na+]
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | (1R,2R)-2-(1-cyano-cyclopropylcarbamoyl)-4-hydroxy-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](CC(C1)O)C(NC1(CC1)C#N)=O | C13H18N2O4
